US06632812B2
3-[1-oxo-2-(S)-cyclopropylmethyl-heptyl]amino-1-methyl-5-(pyridin-2-yl)-2,3-dihydro-1H-1,4-benzodiazepine-2-one
(±)-3-(2-(R)-Cyclopropylmethyl-3-(S)-hydroxyl-1-oxoheptyl)amino-1-methyl-5-(pyridin-2-yl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one was made from 1 and 3-amino-1-methyl-5-(pyridin-2-yl)-2,3-dihydro-1H-1,4-benzodiazepine-2-one (G. Semple et al Synth. Commun. 1996, 26, 721) according to step 1 in Example 1. MS (ESI): 449 (M+H), 471 (M+Na), 447 (M−H). This diastereomeric mixture was submitted to chiral separation on a Chiralpak AD column with 10-15% i-propanol/hexane. The 2nd eluting peak was converted to Example 10 by the same procedures of steps 2 and 3 in Example 1. MS (ESI): 433.3 (M+H).

reactant | (±)-3-(2-(R)-Cyclopropylmethyl-3-(S)-hydroxyl-1-oxoheptyl)amino-1-methyl-5-(pyridin-2-yl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one | C1(CC1)C[C@@H](C(=O)NC1C(N(C2=C(C(=N1)C1=NC=CC=C1)C=CC=C2)C)=O)[C@H](CCCC)O | C26H32N4O3
reactant | 3-amino-1-methyl-5-(pyridin-2-yl)-2,3-dihydro-1H-1,4-benzodiazepine-2-one | NC1C(N(C2=C(C(=N1)C1=NC=CC=C1)C=CC=C2)C)=O | C15H14N4O
product | 3-[1-oxo-2-(S)-cyclopropylmethyl-heptyl]amino-1-methyl-5-(pyridin-2-yl)-2,3-dihydro-1H-1,4-benzodiazepine-2-one | O=C([C@@H](CCCCC)CC1CC1)NC1C(N(C2=C(C(=N1)C1=NC=CC=C1)C=CC=C2)C)=O | C26H32N4O2
